US09334267B2
2-Fluoro-4-methyl-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)aniline
Combine 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (370 mg, 1.474 mmol), 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate (500 mg, 1.474 mmol) and K2CO3 (611 mg, 4.42 mmol) in dioxane (12 mL) and H2O (3 mL), sparge with argon, treat with Pd(PPh3)4 (85 mg, 0.074 mmol) and heat to 60° C. for 3 h. Cool the mixture to RT, stir overnight, treat with EtOAc and wash with brine. Filter the mixture, wash the organic layer again with brine, dry over Na2SO4, concentrate to dryness and purify via reverse-phase chromatography (MeCN/H2O with 0.1% TFA). Combine fractions, remove the organics under reduced pressure and neutralize the aqueous residue with saturated. NaHCO3. Extract the mixture with EtOAc (2×), wash the combined organics with brine, dry over Na2SO4 and concentrate to dryness to afford the title compound as an amorphous solid (373 mg, 81%). MS (m/z): 315.1 (M+1).

reactant | 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.474 mmol, 370 mg | FC1=C(N)C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C | C13H19BFNO2
reactant | 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate | 1.474 mmol, 500 mg | FC(S(=O)(=O)OC1=CC2=C(N=C(N=C2)SC)N=C1C)(F)F | C10H8F3N3O3S2
reactant | K2CO3 | 4.42 mmol, 611 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.074 mmol, 85 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-4-methyl-5-(7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl)aniline | 373 mg, 81% | FC1=C(N)C=C(C(=C1)C)C1=CC2=C(N=C(N=C2)SC)N=C1C | C16H15FN4S
